US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (500 mg, 3.08 mmole) in 8 mL of dry acetonitrile is 384 mg (3.39 mmol) of N-methylcyclohexylamine followed by 468 mg (3.39 mmol) of potassium carbonate. The reaction is heated at 80° C. for 20 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 700 mg (95% yield) of (6-Chloro-pyridin-3-ylmethyl)-cyclohexyl-methyl-amine. C13 NMR 26.1, 26.6, 28.9, 37.7, 54.5, 62.8, 124.1, 135.1, 139.5, 149.9; MS 239.3 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 3.08 mmole, 500 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | N-methylcyclohexylamine | 3.39 mmol, 384 mg | CNC1CCCCC1 | C7H15N
reactant | potassium carbonate | 3.39 mmol, 468 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | (6-Chloro-pyridin-3-ylmethyl)-cyclohexyl-methyl-amine | 700 mg, 95% yield | ClC1=CC=C(C=N1)CN(C)C1CCCCC1 | C13H19ClN2
